US07157455B2
[4-Amino-2-[1-(benzo[b]thiophene-3-sulfonyl)-piperidin-4-ylamino]-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone
The title compound was prepared from [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone, Example 59, and benzo[b]thiophene-3-sulfonyl chloride (Maybridge) by the procedure described in Example 152. HR-MS (ES, m/z) calculated for C25H25FN5O4S2 [(M+H)+] 542.1327, observed 542.1331.

reactant | [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)NC1CCNCC1 | C17H20FN5O2
reactant | benzo[b]thiophene-3-sulfonyl chloride | S1C2=C(C(=C1)S(=O)(=O)Cl)C=CC=C2 | C8H5ClO2S2
product | [4-Amino-2-[1-(benzo[b]thiophene-3-sulfonyl)-piperidin-4-ylamino]-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)NC1CCN(CC1)S(=O)(=O)C=1C2=C(SC1)C=CC=C2 | C25H24FN5O4S2
